US06653308B2
Synthesis of 5-[5-fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidene-methyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-[1,2,3]triazol-1-yl-propyl)-amide
5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (120 mg, 0.4 mmol) was condensed with 1-amino-3(1,2,3)triazol-1-yl-propan-2-ol (85 mg, 0.48 mmol) to precipitate 5-[5-fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidenemethyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-[1,2,3]triazol-1-yl-propyl)-amide (100 mg, 62%). 1H NMR (DMSO-d6) δ2.42, 2.44 (2×s, 6H, 2×CH3), 3.27 (m, 2H), 3.98 (m, 1H), 4.27 (dd, J=7.6, 14 Hz,1H), 4.50 (dd, J=3.4, 13.6 Hz,1H), 5.38 (d, J=5.6 Hz, 1H, OH), 6.82 (dd, J=4.4, 8.4 Hz, 1H), 6.91 (td, 2J=2.4, 3J=9.0 Hz, 1H), 7.70 (m, 3H), 7.75 (dd, J=2.4, 9.2 Hz, 1H), 8.11 (s. 1H), 10.93 (s, 1H, CONH), 13.73 (s, 1H, NH). LC-MS (m/z) 423.4 (M−1).

reactant | 5-(5-Fluoro-2-oxo-1,2-dihydro-indol-3-ylidenemethyl)-2,4-dimethyl-1H-pyrrole-3-carboxylic acid | 0.4 mmol, 120 mg | FC=1C=C2C(C(NC2=CC1)=O)=CC1=C(C(=C(N1)C)C(=O)O)C | C16H13FN2O3
reactant | 1-amino-3(1,2,3)triazol-1-yl-propan-2-ol | 0.48 mmol, 85 mg | NCC(CN1N=NC=C1)O | C5H10N4O
product | 5-[5-fluoro-2-oxo-1,2-dihydro-indol-(3Z)-ylidene-methyl]-2,4-dimethyl-1H-pyrrole-3-carboxylic acid (2-hydroxy-3-[1,2,3]triazol-1-yl-propyl)-amide | OC(CNC(=O)C1=C(NC(=C1C)\C=C\1/C(NC2=CC=C(C=C12)F)=O)C)CN1N=NC=C1 | C21H21FN6O3
